US20010056194A1
An about 93:7 mixture (36.7 g) of 2,4-bis(acetoxymethyl)-bromobenzene and 2,6-bis(acetoxymethyl)bromobenzene was dissolved in methanol (183 ml) and cooled to 10° C. To this solution was added dropwise 10% aqueous sodium hydroxide solution (133 g). The reaction mixture was stirred at room temperature for 1 hr, and the solvent (about 200 ml) was evaporated. The residue was neutralized with dilute hydrochloric acid (about 200 ml). To the neutralized solution was added toluene (150 ml) and the mixture was stirred at 80-85° C. for 1 hr and cooled. The resulting crystals were collected by filtration and dried under reduced pressure to give an about 93:7 mixture (22.2 g, 83.7%) of 2,4-bis(hydroxymethyl)bromobenzene and 2,6-bis(hydroxymethyl)-bromobenzene as almost white crystals. 2,4-bis(Hydroxymethyl)-bromobenzene was isolated by preparative HPLC and used in the measurement.

reactant | 2,4-bis(acetoxymethyl)-bromobenzene | 36.7 g | C(C)(=O)OCC1=C(C=CC(=C1)COC(C)=O)Br | C12H13BrO4
reactant | 2,6-bis(acetoxymethyl)bromobenzene | C(C)(=O)OCC1=C(C(=CC=C1)COC(C)=O)Br | C12H13BrO4
reactant | sodium hydroxide | 133 g | [OH-].[Na+]
solvent | methanol | 183 ml | CO | CH4O
product | 2,4-bis(hydroxymethyl)bromobenzene | 22.2 g, 83.7% | OCC1=C(C=CC(=C1)CO)Br | C8H9BrO2
